US07893081B2
Alternate Step 1: 2-[(E)-2-(4-Bromophenyl)vinyl]-5-chloronicotinic Acid
A stirred solution of methyl 5-chloro-2-methylnicotinate (7.26 kg, 96.4 wt %, 37.7 mol) and 4-bromobenzaldehyde (6.98 kg, 37.7 mol, 1.0 equiv) in THF (112 L) was put under a nitrogen atmosphere, and then cooled to −5° C. A solution of potassium tert-butoxide (8.46 kg, 75.4 mol, 2.0 equiv) in THF (53 L) was then added via a 1 μm filter, whilst maintaining the internal temperature at <0° C. The resulting reaction mixture was warmed to 25° C., and then aged at this temperature until the reaction was complete (typically 1 h). The reaction was then quenched by addition of water (54 L), ensuring the batch temperature remained <30° C. The biphasic mixture was stirred for ˜10 min, and the lower aqueous layer was then removed. The remaining THF layer was diluted with ethyl acetate (54 L), and then washed with 2 M hydrochloric acid (27 L) followed by half-saturated brine (20 L). The resulting organic layer was solvent-switched to ethyl acetate (to a final volume of 27 L), and then to methanol (to give a final volume of ˜106 L). The temperature of the resulting slurry was adjusted to ˜20° C., and it was then filtered, washing the filter-cake with methanol (11 L). The resulting solid was dried under vacuum at 50° C. to afford the title compound.

reactant | methyl 5-chloro-2-methylnicotinate | 37.7 mol, 7.26 kg | ClC=1C=NC(=C(C(=O)OC)C1)C | C8H8ClNO2
reactant | 4-bromobenzaldehyde | 37.7 mol, 6.98 kg, 1.0 equiv | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | potassium tert-butoxide | 75.4 mol, 8.46 kg, 2.0 equiv | CC(C)([O-])C.[K+]
solvent | THF | 112 L | C1CCOC1 | C4H8O
solvent | THF | 53 L | C1CCOC1 | C4H8O
product | 2-[(E)-2-(4-Bromophenyl)vinyl]-5-chloronicotinic Acid | BrC1=CC=C(C=C1)/C=C/C1=C(C(=O)O)C=C(C=N1)Cl | C14H9BrClNO2
